US04537763
After softening 2 kg of gum base by heating, the gum base was added with 6 kg of a crystalline lactitol powder, 160 g of a sweetener, obtained similarly as in EXAMPLE 2, 1 kg of crystalline sorbitol powder, and small amounts of menthol and coloring agent. Thereafter, the mixture was kneaded sufficiently with the use of a roller, and the resultant was shaped into the titled product, in the usual way.

reactant | lactitol | 6 kg | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | C12H22O11
reactant | menthol | C1(CC(C(CC1)C(C)C)O)C | C10H20O
product | sorbitol | 1 kg | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
